US07399780B2
1-[(6-Chloropyridin-3-yl)sulfonyl]-4-isopropylpiperazine
The title compound was prepared as described for Example 25 using N-isopropylpiperazine and 6-chloropyridine-3-sulfonyl chloride (described in: Naegeli, C. et al. Helv. Chim. Actal. 1938, 21, 1746-1750). Yield: 89%: 1H NMR (CDCl3, 400 MHz) δ 8.73 (d, J=3 Hz, 1 H), 7.96 (dd, J=8, 3 Hz, 1 H), 7.48 (d, J=8 Hz, 1 H), 3.12-3.01 (m, 4 H), 2.76-2.63 (m, 1 H), 2.63-2.54 (m, 4 H), 0.99 (d, J=7 Hz, 6 H); 13C NMR (CDCl3, 100 MHz) δ 156.1, 149.3, 138.2, 131.7, 125.0, 54.8, 48.0, 46.7, 18.7; MS (ES) m/z 304 (M++1).

reactant | N-isopropylpiperazine | C(C)(C)N1CCNCC1 | C7H16N2
reactant | 6-chloropyridine-3-sulfonyl chloride | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
product | 1-[(6-Chloropyridin-3-yl)sulfonyl]-4-isopropylpiperazine | Yield: 89% | ClC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)C(C)C | C12H18ClN3O2S
